US07977344B2
2-[(Cyclohexylmethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
Cyclohexylmethanol (4.5784 g) was diluted with 1,2-dimethoxyethane (99%+) (20 mL) before sodium tert-butoxide (3.853 g) was added gradually with stirring under nitrogen. An exotherm was observed on addition of sodium tert-butoxide. 2-Chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (2.5428 g) was added and the resultant mixture was heated to reflux at 93° C. (internal). A further quantity of 1,2-dimethoxyethane (99%+) (20 mL) was added to help dissolution and refluxed overnight. The reaction mixture was dissolved in water (100 mL) and extracted with ethyl acetate (100 mL, twice). The combined organic extracts were washed with brine (100 mL) before the organic layer was separated and dried by passing through a hydrophobic frit. Evaporated volatiles under reduced pressure and then azeotroped with toluene (50 mL, twice) to give mobile amber oil. This material was purified by silica chromatography (ISCO) eluting with 0-100% ethyl acetate: cyclohexane). This gave the title compound after placing under vacuo as pale yellow foam (1.0364 g) (94% purity by LCMS, 6% 2-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine) and was used in next step without further purification.

reactant | Cyclohexylmethanol | 4.5784 g | C1(CCCCC1)CO | C7H14O
reactant | sodium tert-butoxide | 3.853 g | CC(C)([O-])C.[Na+]
reactant | 2-Chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 2.5428 g | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C10H12ClN5O
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
solvent | water | 100 mL | O | H2O
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
product | 2-[(Cyclohexylmethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | C1(CCCCC1)COC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C17H25N5O2
